US07491735B2
Using general procedure A with 1,4-benzodioxan-6-amine (170 mg, 1.1 mmol) and (R)-3-(4-oxo-piperidin-1-yl)-butyronitrile (206 mg, 1.2 mmol) followed by general procedure J gave a green oil, which was subsequently treated with a solution of NaCN (175 mg) in H2O (5 mL) and MeOH (5 mL) and stirred at room temperature for 20 minutes. Work-up and purification afforded [1-((R)-3-amino-1-methyl-propyl)-piperidin-4-yl]-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-amine as a white solid (245 mg, 71% over 2 steps).

reactant | 1,4-benzodioxan-6-amine | 1.1 mmol, 170 mg | O1CCOC2=C1C=CC(=C2)N | C8H9NO2
reactant | (R)-3-(4-oxo-piperidin-1-yl)-butyronitrile | 1.2 mmol, 206 mg | O=C1CCN(CC1)[C@@H](CC#N)C | C9H14N2O
reactant | NaCN | 175 mg | [C-]#N.[Na+]
solvent | H2O | 5 mL | O | H2O
solvent | MeOH | 5 mL | CO | CH4O
product | [1-((R)-3-amino-1-methyl-propyl)-piperidin-4-yl]-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-amine | NCC[C@@H](C)N1CCC(CC1)NC1=CC2=C(OCCO2)C=C1 | C17H27N3O2
